US06350892B1
A solution of 3-[4-[2-(N-dodecyl-N-methylamino)ethyl]phenyl]propanoic acid hydrocloride salt (3.30 g, 7.71 mmol) in dry dichloromethane (35 ml) was treated with oxalyl chloride (1.61 g, 12.7 mmol) and a small drop of N,N-dimethylformamide. After 1 h at 22° C., the solvent and excess reagent were evaporated under reduced pressure and the residue was dissolved in dry dichloromethane (35 ml). This solution was then added to a solution of trifluoroacetic anhydride (5.31 g, 24.2 mmol) in dry dichloromethane (30 ml) cooled to 0° C. and treated dropwise with pyridine (1.4 ml, 17.3 mmol). After stirring for 30 min at 0° C. and another 1.5 h at 22° C., the reaction mixture was cooled again to 0° C. and treated dropwise with water (13 ml). After 30 min at 0° C. and another 30 min at 22° C., the reaction mixture was adjusted to pH 8-9 with solid sodium bicarbonate and diluted with dichloromethane (200 ml). The organic phase was then washed with brine and dried (magnesium sulfate). The solvent was evaporated under reduced pressure and the residual oil was chromatographed on silica gel. Elution with a gradient of ethyl acetate in hexane gave an oil which was distilled under vacuum to give 2.45 g (71%) of 4-[4-[2-(N-dodecyl-N-methylamino)ethoxy]phenyl]1,1,1-trifluoro-2-butanone as a clear oil: b.p. 160° C./0.02 torr (bulb to bulb distillation, air bath temperature).

reactant | 3-[4-[2-(N-dodecyl-N-methylamino)ethyl]phenyl]propanoic acid hydrocloride salt | 7.71 mmol, 3.30 g | Cl.C(CCCCCCCCCCC)N(C)CCC1=CC=C(C=C1)CCC(=O)O
reactant | oxalyl chloride | 12.7 mmol, 1.61 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | trifluoroacetic anhydride | 24.2 mmol, 5.31 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 17.3 mmol, 1.4 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | water | 13 ml | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[4-[2-(N-dodecyl-N-methylamino)ethoxy]phenyl]1,1,1-trifluoro-2-butanone | 2.45 g, 71% | C(CCCCCCCCCCC)N(C)CCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O | C25H40F3NO2
